US08633207B2
To 7-bromo-2-(difluoro(5-fluoropyridin-2-yl)methyl)quinazoline-4-thiol (500 mg, 1.29 mmol) in isopropanol (10 mL) were added 1N NaOH (1.94 mL, 1.94 mmol) and iodomethane (0.097 mL, 1.55 mmol) and the mixture was stirred at rt for 30 min. A brown solid formed, which was collected by filtration and washed with MeOH to afford 7-bromo-2-(difluoro(5-fluoropyridin-2-yl)methyl)-4-(methylthio)quinazoline (0.373 g, 72%). 1H NMR (300 MHz, CDCl3) δ 8.45-8.51 (m, 1H), 8.26-8.32 (m, 1H), 7.93-8.03 (m, 2H), 7.74 (dd, J=1.9, 8.9 Hz, 1H), 7.54-7.65 (m, 1H), 2.61 (s, 3H); LC-MS (ESI) m/z 400/402 (M+H)+.

reactant | 7-bromo-2-(difluoro(5-fluoropyridin-2-yl)methyl)quinazoline-4-thiol | 1.29 mmol, 500 mg | BrC1=CC=C2C(=NC(=NC2=C1)C(C1=NC=C(C=C1)F)(F)F)S | C14H7BrF3N3S
reactant | NaOH | 1.94 mmol, 1N, 1.94 mL | [OH-].[Na+]
reactant | iodomethane | 1.55 mmol, 0.097 mL | IC | CH3I
solvent | isopropanol | 10 mL | C(C)(C)O | C3H8O
product | 7-bromo-2-(difluoro(5-fluoropyridin-2-yl)methyl)-4-(methylthio)quinazoline | 0.373 g, 72% | BrC1=CC=C2C(=NC(=NC2=C1)C(C1=NC=C(C=C1)F)(F)F)SC | C15H9BrF3N3S
